plaintext
* SPICE Netlist for the given schematic

.subckt mycircuit Vin Vout Vcc
Q1 X Gnd Y Y NPN
Rs Vin X 1k
Cmu X Vcc 1u
Cpi X Y 1u
Cl Vout 0 1u
I1 Y 0 DC 1mA
.ends mycircuit